US06495221B1
(1) Synthesis of 4-(3-Hydroxypropyloxy)-chalcone (Chemical Formula 2-13)
A refined 4′-(3-hydroxypropyloxy)-chalcone (9.71 g, 34.4 mmol) was obtained with a yield of 51.4% by adding 90 ml of dry DMF to 4′-hydroxychalcone (15.0 g, 67 mmol) in an air current of argon, and adding sodium hydride (60%, 2.68 g, 67 mmol) through dropping in a reaction flask of 200 ml in ice cooling for 30 minutes; later, after heating to a room temperature and stirring for 5 hours, adding 3-chloro-1-propanol (6.33 g, 67 mmol) through dropping at the same temperature for 10 minutes; furthermore, heating to 80° C., and reacting for 7 hours; next, after injecting the solution into water with ice and extracting the product with ethyl acetate, washing with water, and drying through dehydration with magnesium sulfate, and removing the solvent; after refining (mobile phase, hexane:ethyl acetate=4:1) the gained coarse crystal with silica gel column, recrystallizing with ethyl acetate.

reactant | DMF | 90 ml | CN(C)C=O | C3H7NO
reactant | 4′-hydroxychalcone | 67 mmol, 15.0 g | OC1=CC=C(C(C=CC2=CC=CC=C2)=O)C=C1 | C15H12O2
reactant | sodium hydride | 67 mmol, 2.68 g | [H-].[Na+]
reactant | 3-chloro-1-propanol | 67 mmol, 6.33 g | ClCCCO | C3H7ClO
solvent | water | O | H2O
product | 4-(3-Hydroxypropyloxy)-chalcone | OCCCOC1=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1 | C18H18O3
